### PR TITLE
Delay monad interface and model

### PR DESCRIPTION
**Pull request by Ryuji-Kawakami**
We define the delay monad interface and prove the soundness of it. Additionally, we construct the model of combination with state monad and exception monad.
And we turned the typed store monad into a monad transformer as a composition of state monad transformer and exception monad transformer.

### CODE REVIEW

File: theories/applications/example_delay.v [hunk 1]
```diff
@@ -0,0 +1,334 @@
...
+  subst x y.
+  case_eq (q == 1) => Hs.
+  + by rewrite /collatzm_body Hs bindretf //= fmapE bindretf //=.
+  + rewrite/collatzm_body Hs.
+  case He: (q %% 2 == 0).
+  * by rewrite bindretf //= fmapE bindretf //=.
+  * by rewrite bindretf //= fmapE bindretf //=.
+done.
+Qed.
+Definition minus1_body (nm: nat*nat)  :M ((nat + nat*nat) + nat*nat)%type:= match nm with
```
Comment (Ryuji-Kawakami) [inline theories/applications/example_delay.v:56]: :=の後match改行

**Comment by affeldt-aist** [comment]
It would be nice if you could keep the examples about the delay monad in one file and the models about the delay monad in one file (this is to ease long-term maintenance).
It would also be nice if you could restore blank lines between `Qed.` and `Lemma ...`/`Definition` .... (it is easier to read and is less likely to cause errors when processing with documentation tools.)

File: theories/applications/example_delay.v (hunk 1 above)
Comment (affeldt-aist) [reply theories/applications/example_delay.v]: About style: you'd better keep spaces before and after symbols such as `:` and `*`: it is easier to read and also it prevents problems when in the future someone will come up with a notations such as `*n`, `:M`, etc.

File: theories/applications/example_delay.v [hunk 2]
```diff
@@ -0,0 +1,234 @@
...
+Require Import hierarchy.
+Require Import Lia.
+
+Local Open Scope monae_scope.
+
+Section delayexample.
+Notation "a '≈' b" := (wBisim a b).
+Variable M : delayMonad.
+
+Fixpoint fact n : nat := match n with
```
Comment (affeldt-aist) [inline theories/applications/example_delay.v:12]: You should maybe reuse the definition `factorial` from `ssrnat` (moreover, since it is unrelated to `M` it should be outside this section anyway).

File: theories/applications/example_delay.v [hunk 3]
```diff
@@ -0,0 +1,234 @@
...
+move => n.
+rewrite /factdelay.
+elim: n => [m | n IH m].
+- by rewrite fixpointE bindretf muln1.
+- by rewrite fixpointE bindretf/= IH mulnA.
+Qed.
+
+Let collatzm_body m n : M (nat + nat)%type :=
+  if n == 1 then Ret (inl m)
+  else if n %% 2 == 0 then Ret (inr (n./2))
```
Comment (affeldt-aist) [inline theories/applications/example_delay.v:36]: Parentheses needed around `n./2`?

File: theories/applications/example_delay.v [hunk 4]
```diff
@@ -0,0 +1,234 @@
...
+       else Ret (inr (3 * n + 1)).
+
+Let collatzm m := fun n => while (collatzm_body m) n.
+
+Let delaymul m d : M nat := d >>= (fun n => Ret (m * n)).
+
+Lemma collatzmwB : forall m n p, delaymul p (collatzm m n) ≈ collatzm (p * m) n.
+Proof.
+move => m n p.
```
Comment (affeldt-aist) [inline theories/applications/example_delay.v:45]:
```suggestion
Lemma collatzmwB m n p : delaymul p (collatzm m n) ≈ collatzm (p * m) n.
Proof.
```

File: theories/applications/example_delay.v [hunk 5]
```diff
@@ -0,0 +1,234 @@
...
+rewrite /collatzm /delaymul naturalityE.
+set x := (x in while x).
+set y := collatzm_body (p*m).
+have <-: x = y.
+  apply boolp.funext => q.
+  subst x y.
+  case_eq (q == 1) => Hs; rewrite /collatzm_body Hs//.
```
Comment (affeldt-aist) [inline theories/applications/example_delay.v:52]: use `have [|] := eqVneq q 1` instead

File: theories/applications/example_delay.v [hunk 6]
```diff
@@ -0,0 +1,234 @@
...
+  + by rewrite bindretf/= fmapE bindretf/=.
+  + by case He: (q %% 2 == 0); rewrite bindretf/= fmapE bindretf/=.
+done.
+Qed.
+
+Let minus1_body nm : M ((nat + nat * nat) + nat * nat)%type :=
+  match nm with
+  |(O, m) => match m with
+             |O => Ret (inl (inl O))
+             |S m' => Ret (inl (inr (m', m')))
```
Comment (affeldt-aist) [inline theories/applications/example_delay.v:62]:
```suggestion
             | m'.+1 => Ret (inl (inr (m', m')))
```

File: theories/applications/example_delay.v [hunk 7]
```diff
@@ -0,0 +1,234 @@
...
+             end
+  |(S n', m) => Ret (inr (n', m))
+  end.
+
+Let minus1 := fun nm => while (while minus1_body) nm.
+
+Let minus2_body nm : M (nat + nat * nat)%type :=
+  match nm with
+  |(O,m) => match m with
```
Comment (affeldt-aist) [inline theories/applications/example_delay.v:71]: the `if ... is ... then ... else ...` will allow for shorter code.

File: theories/applications/example_delay.v [hunk 8]
```diff
@@ -0,0 +1,234 @@
...
+
+Let fastexp_body nmk : M (nat + nat * nat * nat)%type :=
+  match nmk with (n, m, k) =>
+    if n == 0 then Ret (inl m)
+    else (if odd n then Ret (inr (n.-1 , m * k, k))
+          else Ret (inr (n./2, m, k * k) )) end.
+
+Let fastexp n m k := while fastexp_body (n, m, k).
+
+Fixpoint exp n k := match n with |O => 1 | S n' => k * exp n' k end.
```
Comment (affeldt-aist) [inline theories/applications/example_delay.v:122]: Isn't it the same as `expn` in `ssrnat.v`?

File: theories/applications/example_delay.v [hunk 9]
```diff
@@ -0,0 +1,234 @@
...
+
+Lemma expE_aux n : n <= n.*2.
+Proof.
+elim: n => //= n IH.
```
Comment (affeldt-aist) [inline theories/applications/example_delay.v:126]: You can use `addnn` and `leq_addr` instead of doing an induction.

File: theories/applications/example_delay.v [hunk 10]
```diff
@@ -0,0 +1,234 @@
...
+rewrite /fastexp /fastexp_body.
+elim: n {-2}n (leqnn n) => n.
+- rewrite leqn0 => /eqP H0 m k.
+  by rewrite H0 fixpointE /= bindretf /= expn0 mulnS muln0 addn0.
+- move => IH [|m'] Hmn m k.
+  + by rewrite fixpointE /= bindretf /= mulnS muln0 addn0.
+  + case/boolP: (odd (m'.+1)) => Hm'.
+    * by rewrite fixpointE Hm' bindretf/= IH//= expnSr (mulnC (k^m') k) mulnA.
+    * rewrite fixpointE ifN //= bindretf /= IH.
+      ** by rewrite uphalfE mulnn -expnM mul2n (even_halfK Hm').
```
Comment (affeldt-aist) [inline theories/applications/example_delay.v:143]: Use `-` instead of `**`.

File: theories/applications/example_delay.v [hunk 11]
```diff
@@ -0,0 +1,234 @@
...
+move => /andP [Hmin Hmax].
+case/boolP: (m < 101).
+- move/ltnW/subnKC.
+  set k:= 101 - m.
+  clearbody k.
+  move: m Hmin Hmax.
+  elim: k.
+  + move => m Hmin Hmax.
+    rewrite addn0 => Hm.
+    by rewrite Hm.
```
Comment (affeldt-aist) [inline theories/applications/example_delay.v:184]:
```suggestion
    by rewrite addn0 => ->.
```

File: theories/applications/example_delay.v [hunk 12]
```diff
@@ -0,0 +1,234 @@
...
+  elim: k {-2}k (leqnn k) n m {H101} => k.
+  + rewrite leqn0 => /eqP H0 n m.
+    rewrite H0 (addn0 m) => ->.
+    by rewrite mc91E_aux// mc91_101E.
+  + move =>IH k' Hk n m Hm.
+    have ->: m = 90 - k' by rewrite -Hm addnK.
+    rewrite/mc91/mc91_body fixpointE //=.
+    rewrite ifF; last by rewrite ltn_subRL addnC.
+    rewrite bindretf/= -/mc91_body -/(mc91 _ _).
+    case/boolP: (k' <= 11) => Hk'.
```
Comment (affeldt-aist) [inline theories/applications/example_delay.v:230]: `have := leqP k' 11` is often a better alternative

File: theories/applications/example_delayexcept.v [hunk 13]
```diff
@@ -0,0 +1,142 @@
...
+Require Import preamble hierarchy monad_lib fail_lib state_lib.
+
+Local Open Scope monae_scope.
+Notation "a '≈' b" := (wBisim a b).
+
+Section delayexcept_example.
+Variable M : delayExceptMonad.
+
+Definition select (l: seq nat) := let max := \max_(i <- l) i in (max, rem max l).
+(*bigopでselectを定義する*)
```
Comment (affeldt-aist) [inline theories/applications/example_delayexcept.v:12]: Comments are better in English. :-)

File: theories/applications/example_delayexcept.v [hunk 14]
```diff
@@ -0,0 +1,142 @@
...
+                    |[::] => @ret M _ (inl n)
+                    |h::tl => let (m,res) := select l in catch (if m <= 10  then fail else @ret M _ (inr (res, m*n))) (@ret M _ (inl n))
+end
+end.
+Definition muloflistover10d := while muloflistover10d_body.
+Definition muloflistover10 (l: seq nat) :=  foldr (fun x z => if 10 < x then x*z else z) 1 l.
+Lemma all_under10 (l: seq nat): (forall i, i \in l -> i <= 10) -> muloflistover10 l = 1.
+Proof.
+elim: l => //= n l' Hl H.
+case/boolP: (10 < n) => H10.
```
Comment (affeldt-aist) [inline theories/applications/example_delayexcept.v:25]: Try to use `have := ltnP 10 n` or a variant.

File: theories/applications/example_delayexcept.v [hunk 15]
```diff
@@ -0,0 +1,142 @@
...
+- contradict H10.
+  apply/negP.
+  rewrite -leqNgt.
+  apply H.
+  rewrite in_cons.
+  apply /orP.
+  left.
+  by apply/eqP.
```
Comment (affeldt-aist) [inline theories/applications/example_delayexcept.v:33]: I am not running the code but it is likely that you do not need to do `apply/orP etc.` but rather do an additional rewrite in the previous line to close the goal.

File: theories/applications/example_delayexcept.v [hunk 16]
```diff
@@ -0,0 +1,142 @@
...
+Proof.
+(*seq_sub in Fintype.v*)
+(*ex_maxn *)
+move => Hn.
+rewrite -(in_tupleE l).
+rewrite big_tuple.
+case: (eq_bigmax (tnth (in_tuple l))).
+- rewrite cardT.
+  rewrite size_enum_ord.
+  rewrite lt0n. done.
```
Comment (affeldt-aist) [inline theories/applications/example_delayexcept.v:72]:
```suggestion
  by rewrite lt0n.
```

File: theories/applications/example_delayexcept.v [hunk 17]
```diff
@@ -0,0 +1,142 @@
...
+        by rewrite eq_refl.
+      rewrite all_under10.
+      * by rewrite mulnS muln0 addn0.
+      * move => i Hini.
+        apply Hm10 => //=.
+        rewrite in_cons.
+        by rewrite Hini orbT.
+      rewrite catchret bindretf /=.
+      rewrite -/muloflistover10d_body -/muloflistover10d.
+      case Hh : (h == \max_(i <- (h :: l'')) i).
```
Comment (affeldt-aist) [inline theories/applications/example_delayexcept.v:107]: Use `have [abc|xyz] := eqVneq h (\max_(i <- h :: l'') i)`
with appropriate patterns instead of `abc` and `xyz`

File: theories/applications/example_delaystate.v [hunk 18]
```diff
@@ -0,0 +1,94 @@
...
+Definition factds_body m : M (unit + nat)%type :=
+  do s <- get;
+  match m with
+  |O => do _ <- put s; Ret (inl tt)
+  |m'.+1 => do _<- put (m * s); Ret (inr m')
+  end.
+
+Definition factds := while factds_body.
+
+Fixpoint fact n := match n with |O => 1 |m.+1 => n * fact m end.
```
Comment (affeldt-aist) [inline theories/applications/example_delaystate.v:22]: This is already defined in `example_delay.v` (and already in `ssrnat.v` anyway) -> remove

**Comment by affeldt-aist** [comment]
Comments will need to be removed when you moved from draft to PR.
Also, files deserve some documentation (look at other files for examples).

**Review by affeldt-aist — CHANGES_REQUESTED** [review]
This is a great addition and I understand that this is still in draft mode.
I wrote a few style-level comments that I think could help clarify the presentation of the code.

**Comment by affeldt-aist** [comment]
> Rebase on top of master (that has moved from MathComp 2.2.0 to 2.3.0 is also needed, we gave up on 2.2.0).

Rebasing on top top of master and using MathComp 2.3.0 should get rid at least of one CI error.

File: theories/core/hierarchy.v [hunk 19]
```diff
@@ -872,6 +873,100 @@ HB.structure Definition MonadExcept := {M of isMonadExcept M & }.
...
+Section example.
+Variable M : delayMonad.
+
+Lemma testbindfmor (f : nat -> M nat) (d1 d2 : M nat) : d1 ≈ d2 -> d1 >>= f ≈ d2 >>= f.
+Proof.
+move => Hd.
+by rewrite Hd.
+Qed.
+
+Lemma testpointwise (f g : nat -> M nat) : (pointwise_relation nat wBisim f g) <-> forall a, f a ≈ g a.
```
Comment (affeldt-aist) [inline theories/core/hierarchy.v:944]: Use the notation `≈1` that you introduced.

File: theories/core/hierarchy.v [hunk 20]
```diff
@@ -872,6 +873,100 @@ HB.structure Definition MonadExcept := {M of isMonadExcept M & }.
...
+*)
+
+Section example.
+Variable M : delayMonad.
+
+Lemma testbindfmor (f : nat -> M nat) (d1 d2 : M nat) : d1 ≈ d2 -> d1 >>= f ≈ d2 >>= f.
+Proof.
+move => Hd.
+by rewrite Hd.
+Qed.
```
Comment (affeldt-aist) [inline theories/core/hierarchy.v:942]:
```suggestion
Proof. by move => ->. Qed.
```

File: theories/core/hierarchy.v [hunk 21]
```diff
@@ -872,6 +873,100 @@ HB.structure Definition MonadExcept := {M of isMonadExcept M & }.
...
+- apply: (bindmwB _ _ _ _ _ Hxy).
+- apply: (bindfwB _ _ _ _ y Hfg).
+Qed.
+
+#[global] Add Parametric Morphism A B : while
+  with signature (pointwise_relation A (@wBisim M (B + A))) ==> @eq A ==> (@wBisim M B ) as whilemor.
+Proof.
+move => f g Hfg a.
+by apply: (whilewB _ _ _ _ _ Hfg).
+Qed.
```
Comment (affeldt-aist) [inline theories/core/hierarchy.v:929]:
```suggestion
Proof. by move=> f g + a; exact: whilewB. Qed.
```

File: theories/applications/example_delaystate.v [hunk 22]
```diff
@@ -0,0 +1,94 @@
...
+  end.
+
+Definition collatzs1 n := while (while collatzs1_body) (n,n,0).
+
+Definition collatzs2_body nml : M ((nat * nat + nat * nat * nat))%type :=
+  match nml with (n,m,l) =>
+    do s' <- get;
+    do _ <- put (n :: s');
+    if (l %% 4 == 1) && (n == 1) then Ret (inl (m,l))
+    else if (n == 1) then do _ <- put [::]; Ret (inr (m+1,m+1,0))
```
Comment (affeldt-aist) [inline theories/applications/example_delaystate.v:66]: Use the notation `.+1` instead of `+ 1`. This is always better.

File: theories/applications/example_delayexcept.v [hunk 23]
```diff
@@ -0,0 +1,140 @@
...
+        * move: Hh Hm10 => /eqP Hh.
+          rewrite -ltnNge -Hh.
+          case: (10 < h) => //= _.
```
Comment (affeldt-aist) [inline theories/applications/example_delayexcept.v:108]: Use `have [|] := ltnP 10 k.` instead is often a good idea.

File: theories/applications/example_delay_typed_store.v [hunk 24]
```diff
@@ -0,0 +1,122 @@
...
+Unset Strict Implicit.
+Unset Printing Implicit Defensive.
+
+Local Open Scope monae_scope.
+
+(******************************************************************************)
+(*                             generated by coqgen                            *)
+(******************************************************************************)
+Module MLTypes.
+Inductive ml_type : Set :=
```
Comment (affeldt-aist) [inline theories/applications/example_delay_typed_store.v:21]: This code, as well as other code below, is already present in `example_typed_store.v`. Could you come up with a way to share this code to avoid copy-pasting? (This is important for maintenance and this can only clarify your work.)

File: theories/models/typed_store_transformer.v [hunk 25]
```diff
@@ -0,0 +1,511 @@
+Require Import JMeq.
```
Comment (affeldt-aist) [inline theories/models/typed_store_transformer.v:1]: This file (other files as well) should come with a (short) comment at the top that explains what this file is about, in this case, answering the question, "what's the relation with typed_store_model.v?".

File: theories/applications/example_delay.v [hunk 26]
```diff
@@ -0,0 +1,172 @@
...
+elim: n => [m | n IH m]; rewrite fixpointE bindretf/=.
+  by rewrite muln1.
+by rewrite mulnA.
+Qed.
+
+Let collatzm_body m n : M (nat + nat)%type :=
+  if n == 1 then Ret (inl m)
+  else if n %% 2 == 0 then Ret (inr n./2)
+       else Ret (inr ((3 * n).+1)).
+Let collatzm m := fun n => while (collatzm_body m) n.
```
Comment (affeldt-aist) [inline theories/applications/example_delay.v:28]: This maybe should be a `Definition`, some comment for other examples in this file: the main function deserves to be exposed outside the `Section` imo.

File: theories/applications/example_delay.v [hunk 27]
```diff
@@ -0,0 +1,172 @@
...
+move => /andP [Hmin].
+rewrite /mc91 fixpointE /= ltnNge => Hmax.
+rewrite ifN // bindretf /= fixpointE /=.
+have -> : 100 = 89 + 11 by [].
+rewrite ltn_add2r ifT //.
+rewrite bindretf fixpointE /= fixpointE.
+have -> // : m + 11 - 10 = m.+1.
+by rewrite -addnBA // addn1.
+Qed.
+Lemma mc91E_aux m n : 90 <= m <= 101 -> mc91 n m ≈ mc91 n 101.
```
Comment (affeldt-aist) [inline theories/applications/example_delay.v:122]: Blank line between `Qed` and `Lemma`.

File: theories/applications/example_delay.v [hunk 28]
```diff
@@ -0,0 +1,172 @@
+From mathcomp Require Import all_ssreflect.
+From mathcomp Require boolp.
+Require Import hierarchy.
+Require Import Lia.
+
```
Comment (affeldt-aist) [inline theories/applications/example_delay.v:5]: A piece of documentation would be welcome. Listing the definitions that are exposed outside of this file might be enough. See other files for the documentation "format".

File: theories/applications/example_delay_typed_store.v [hunk 29]
```diff
@@ -0,0 +1,58 @@
+(* monae: Monadic equational reasoning in Coq                                 *)
+(* Copyright (C) 2023 monae authors, license: LGPL-2.1-or-later               *)
+Require Import Morphisms.
+From mathcomp Require Import all_ssreflect.
+From HB Require Import structures.
+Require Import preamble hierarchy monad_lib typed_store_lib.
+Require Import typed_store_universe.
+
```
Comment (affeldt-aist) [inline theories/applications/example_delay_typed_store.v:8]: Add a piece of documentation that explains would is the difference between this file and other files about the `Delay` monad and the typed store monad.

**Comment by affeldt-aist** [comment]
It looks like some examples file are not in the Makefile, they should be added to be checked by the CI. Maybe all the examples about the `Delay` monad should be put in one file if possible.

File: theories/models/recursion.v [hunk 30]
```diff
@@ -0,0 +1,30 @@
...
+From HB Require Import structures.
+Require Import hierarchy.
+
+Set Implicit Arguments.
+Unset Strict Implicit.
+Unset Printing Implicit Defensive.
+
+Local Open Scope monae_scope.
+Local Open Scope do_notation.
+
```
Comment (affeldt-aist) [inline theories/models/recursion.v:11]: This is a file with only definitions. Does it really belong to the `models` directory? It looks more like an "example" file to me.

File: theories/models/delaystate_model.v [hunk 31]
```diff
@@ -0,0 +1,187 @@
+Require Import JMeq.
+From mathcomp Require Import all_ssreflect.
+From mathcomp Require boolp.
+From HB Require Import structures.
+Require Import hierarchy monad_lib fail_lib state_lib trace_lib.
+Require Import monad_transformer.
+
```
Comment (affeldt-aist) [inline theories/models/delaystate_model.v:7]: This also requires documentation. It might be enough to list up the definitions that are exposed outside of the file.

File: theories/models/elgot_assert_model.v [hunk 32]
```diff
@@ -0,0 +1,114 @@
+From mathcomp Require Import all_ssreflect.
+From HB Require Import structures.
+Require Import monad_transformer hierarchy delay_monad_model delayexcept_model.
+
```
Comment (affeldt-aist) [inline theories/models/elgot_assert_model.v:4]: This file is not documented.

File: theories/models/typed_store_transformer.v [hunk 33]
```diff
@@ -0,0 +1,511 @@
...
+Module ModelTypedStore.
+
+Section ModelTypedStore.
+Variables (MLU : ML_universe) (N : monad) (M0 : monad).
+
+Local Notation coq_type := (@coq_type MLU N).
+
+Local Notation ml_type := (MLU : Type).
+
+Record binding :=
```
Comment (affeldt-aist) [inline theories/models/typed_store_transformer.v:26]: Isn't this already defined in `typed_store_universe.v`?

File: theories/applications/example_elgotassert.v [hunk 34]
```diff
@@ -0,0 +1,75 @@
+(* monae: Monadic equational reasoning in Coq                                 *)
+(* Copyright (C) 2025 monae authors, license: LGPL-2.1-or-later               *)
+From mathcomp Require Import all_ssreflect.
+Require Import hierarchy.
+
+(**md**************************************************************************)
+(* # Applications of the Elgot-assert monad                                   *)
+(*                                                                            *)
+(* ```                                                                        *)
+(*   bubblesort == TODO                                                       *)
```
Comment (affeldt-aist) [inline theories/applications/example_elgotassert.v:10]: Documentation is still lacking.

File: theories/applications/example_elgotexcept.v [hunk 35]
```diff
@@ -0,0 +1,113 @@
...
+  rewrite -nk.
+  by apply/negP; rewrite -ltnNge.
+have Hkl': k \in l'.
+  by move: Hink; rewrite in_cons eq_sym (negbTE nk).
+have [Hn|HnN] := ltnP 10 n.
+  by rewrite -(IH Hkl')/= Hn mulnA (mulnC k n) -mulnA.
+by rewrite -(IH Hkl')/= ltnNge HnN/=.
+Qed.
+
+Lemma maxinseq (l : seq nat) : ~~ nilp l -> \max_(i <- l) i \in l.
```
Comment (affeldt-aist) [inline theories/applications/example_elgotexcept.v:62]: move to `preamble.v`

File: theories/models/delay_monad_model.v [hunk 36]
```diff
@@ -0,0 +1,872 @@
...
+Proof. by move=> A B a f; rewrite [LHS]DelayE [RHS]DelayE. Qed.
+
+CoInductive strongBisim (A : UU0) : M A -> M A -> Prop :=
+| sBrefl (m : M A) : strongBisim m m
+| sBLater (m m' : M A) :
+  strongBisim m m' -> strongBisim (Later m) (Later m').
+Arguments strongBisim [A].
+Arguments sBLater [A].
+
+#[deprecated(since="0.9.1", note = "non standard axiom for strong bisimilarity")]
```
Comment (affeldt-aist) [inline theories/models/delay_monad_model.v:60]:
```suggestion
#[deprecated(since="0.9.2", note = "non standard axiom for strong bisimilarity")]
```

File: theories/models/recursion.v (hunk 30 above)
Comment (affeldt-aist) [reply theories/models/recursion.v:11]: Note that this file is not in `_CoqProject`. Should it be removed?

File: theories/applications/example_elgotexcept.v (hunk 35 above)
Comment (Ryuji-Kawakami) [reply theories/applications/example_elgotexcept.v]: move maxinseq lemma to preamble.v file

File: theories/models/recursion.v (hunk 30 above)
Comment (affeldt-aist) [reply theories/models/recursion.v:11]: ping @Ryuji-Kawakami

File: theories/applications/example_elgotassert.v (hunk 34 above)
Comment (affeldt-aist) [reply theories/applications/example_elgotassert.v:10]: ping @Ryuji-Kawakami

File: theories/models/typed_store_transformer.v (hunk 33 above)
Comment (affeldt-aist) [reply theories/models/typed_store_transformer.v:26]: I guess this has been fixed?

**Review by affeldt-aist — APPROVED** [review]
